### PR TITLE
[Merged by Bors] - feat(Finset): `Ioc a b` is disjoint from `Ioc c d` when `b ≤ c`

### PR DESCRIPTION
**Pull request by EtienneC30**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 1]
```diff
@@ -237,6 +237,10 @@ theorem Icc_ssubset_Icc_right (hI : a₂ ≤ b₂) (ha : a₂ ≤ a₁) (hb : b
   rw [← coe_ssubset, coe_Icc, coe_Icc]
   exact Set.Icc_ssubset_Icc_right hI ha hb
 
+theorem Ioc_disjoint_Ioc (a d : α) (hbc : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) :=
```
Comment (Paul-Lez) [inline Mathlib/Order/Interval/Finset/Basic.lean:240]: The variable `a` is already declared earlier in the file, so you only need `(d : α)` here. 
Do we also want to make `d` implicit?

Comment (EtienneC30) [reply Mathlib/Order/Interval/Finset/Basic.lean]: I wrote `a` because I wanted `a` and `d` to be explicit as they are not in the hypotheses otherwise, but looking at lemmas around they should be implicit I guess.

**Review by Paul-Lez — APPROVED** [review]

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 2]
```diff
@@ -237,6 +237,10 @@ theorem Icc_ssubset_Icc_right (hI : a₂ ≤ b₂) (ha : a₂ ≤ a₁) (hb : b
   rw [← coe_ssubset, coe_Icc, coe_Icc]
   exact Set.Icc_ssubset_Icc_right hI ha hb
 
+theorem Ioc_disjoint_Ioc {d : α} (hbc : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) :=
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Finset/Basic.lean:240]: Can you make this match `Set.Ioc_disjoint_Ioc`? and also put it in the same location within the file? Thanks!

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 3]
```diff
@@ -237,6 +237,10 @@ theorem Icc_ssubset_Icc_right (hI : a₂ ≤ b₂) (ha : a₂ ≤ a₁) (hb : b
   rw [← coe_ssubset, coe_Icc, coe_Icc]
   exact Set.Icc_ssubset_Icc_right hI ha hb
 
+theorem Ioc_disjoint_Ioc_of_le {d : α} (hbc : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) :=
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Finset/Basic.lean:240]: This lemma doesn't exist for `Set`, and instead we have `Ioc_disjoint_Ioc_same`

File: Mathlib/Order/Interval/Finset/Basic.lean (hunk 2 above)
Comment (EtienneC30) [reply Mathlib/Order/Interval/Finset/Basic.lean]: [Set.Ioc_disjoint_Ioc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/Disjoint.html#Set.Ioc_disjoint_Ioc) is about linear order while my version is about partial orders and is a bit more general than [Set.Ioc_disjoint_Ioc_same](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/Disjoint.html#Set.Ioc_disjoint_Ioc_same), so I changed the name and added a different `Finset.Ioc_disjoint_Ioc`.

File: Mathlib/Order/Interval/Finset/Basic.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/Basic.lean]: Note: I am not saying that `Ioc_disjoint_Ioc_of_le` is worse than `Ioc_disjoint_Ioc_same`. In fact I think it's better. However, sets and finsets should *definitely* have the same lemmas

**Comment by EtienneC30** [comment]
I put `Ioc_disjoint_Ioc_of_le` because it looks like [Set.Iic_disjoint_Ioc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/Disjoint.html#Set.Iic_disjoint_Ioc)  and I think this form is useful, so I added the same version for `Set`.

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 4]
```diff
@@ -43,8 +43,10 @@ theorem Iic_disjoint_Ioc (h : a ≤ b) : Disjoint (Iic a) (Ioc b c) :=
   (Iic_disjoint_Ioi h).mono le_rfl Ioc_subset_Ioi_self
 
 @[simp]
-theorem Ioc_disjoint_Ioc_same : Disjoint (Ioc a b) (Ioc b c) :=
-  (Iic_disjoint_Ioc le_rfl).mono Ioc_subset_Iic_self le_rfl
+theorem Ioc_disjoint_Ioc_of_le {d : α} (h : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) :=
+  (Iic_disjoint_Ioc h).mono Ioc_subset_Iic_self le_rfl
+
+@[deprecated (since := "2025-03-04")] alias Ioc_disjoint_Ioc_same := Ioc_disjoint_Ioc_of_le
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Set/Disjoint.lean:49]: Making it an `alias` might break people's code. Use the `deprecated` code action instead of the `deprecated alias ` code action

File: Mathlib/Order/Interval/Set/Disjoint.lean [hunk 5]
```diff
@@ -46,7 +46,9 @@ theorem Iic_disjoint_Ioc (h : a ≤ b) : Disjoint (Iic a) (Ioc b c) :=
 theorem Ioc_disjoint_Ioc_of_le {d : α} (h : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) :=
   (Iic_disjoint_Ioc h).mono Ioc_subset_Iic_self le_rfl
 
-@[deprecated (since := "2025-03-04")] alias Ioc_disjoint_Ioc_same := Ioc_disjoint_Ioc_of_le
+@[deprecated "Use Ioc_disjoint_Ioc_of_le instead." (since := "2025-03-04")]
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Set/Disjoint.lean:49]:
```suggestion
@[deprecated Ioc_disjoint_Ioc_of_le (since := "2025-03-04")]
```
is enough

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 6]
```diff
@@ -237,6 +237,11 @@ theorem Icc_ssubset_Icc_right (hI : a₂ ≤ b₂) (ha : a₂ ≤ a₁) (hb : b
   rw [← coe_ssubset, coe_Icc, coe_Icc]
   exact Set.Icc_ssubset_Icc_right hI ha hb
 
+@[simp]
+theorem Ioc_disjoint_Ioc_of_le {d : α} (hbc : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) :=
+  disjoint_left.2 fun _ h1 h2 ↦ not_and_of_not_left _
+    ((mem_Ioc.1 h1).2.trans hbc).not_lt (mem_Ioc.1 h2)
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Finset/Basic.lean:243]:
```suggestion
theorem Ioc_disjoint_Ioc_of_le {d : α} (hbc : b ≤ c) : Disjoint (Ioc a b) (Ioc c d) := by
  simpa using Set.Ioc_disjoint_Ioc_of_le  hbc
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Order/Interval/Finset/Basic.lean (hunk 6 above)
Comment (EtienneC30) [reply Mathlib/Order/Interval/Finset/Basic.lean:243]: This does not work because the file `Interval/Set/Disjoint` is not imported in `Interval/Finset/Basic`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
